US04309443
N-{2-(4-{2-Carbomethoxy-1-methylethenyl}phenyl)-1, 1-dimethylethyl}-2-hydroxy-2-phenylethanamine
This was prepared in an identical manner to the compound described in Example 13 using phenylglyoxal monohydrate (1.5 g) and 2{4-(2-carbomethoxy-1-methylethenyl)phenyl}-1, 1-dimethylethanamine (2.47 g). The title compound (2.02 g) m.p. 98°-103° C. (benzene/hexane) was obtained after chromatography on Kieselgel 60 eluting with 1% methanolchloroform. τ(CDCl3) 8.9 (6H, s), 7.55 (3H, d, J=1.5 Hz), 7.35 (2H, s), 6.8-7.6 (4H, m) 6.3 (3H, s), 5.4 (1H, dd) 3.85 (1H, q, J=1.5 Hz), 3.0-2.2 (9H, m).

reactant | phenylglyoxal monohydrate | 1.5 g | O.C1(=CC=CC=C1)C(=O)C=O
reactant | 2{4-(2-carbomethoxy-1-methylethenyl)phenyl}-1, 1-dimethylethanamine | 2.47 g | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CC(N)(C)C | C15H21NO2
product | N-{2-(4-{2-Carbomethoxy-1-methylethenyl}phenyl)-1, 1-dimethylethyl}-2-hydroxy-2-phenylethanamine | 2.02 g | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CC(C)(C)NCC(C1=CC=CC=C1)O | C23H29NO3
